US07273877B2
To a stirred solution of 4-(2-fluoro-4-iodo-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (5.62 g, 14.5 mmol) in DMF (50 mL) was added pyridine (3.5 mL, 43.4 mmol) then followed by dropwise addition of pentafluorophenyl trifluoroacetate (4.5 mL, 43.4 mmol). The mixture was stirred at room temperature for 24 hours. To this mixture was added hydrazine monohydrate (2.8 mL, 58 mmol). The reaction mixture was stirred at room temperature for another 24 hours. The precipitated white solid was collected by filtration and washed with water (5 mL) and hexanes. After drying, the 4-(2-Fluoro-4-iodo-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid hydrazide was obtained as a white solid (6.55 g, 81%). 1H NMR [(CD3)2SO, 400 MHz] δ 9.90 (s, 1H), 9.63 (s, 1H), 8.15 (s, 1H), 7.73 (d, 1H), 7.58 (d, 1H), 7.26 (t, 1H), 5.58 (s, 1H), 4.42 (br s, 1H), 2.50 (t, 3H). Anal. Calcd for C15H14FIN2O3: C, 43.3; H, 3.4; N, 6.7. Found: C, 43.7; H, 3.1; N, 7.0.

reactant | 4-(2-fluoro-4-iodo-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | 14.5 mmol, 5.62 g | FC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1)=O)C)C(=O)O | C13H10FIN2O3
reactant | pyridine | 43.4 mmol, 3.5 mL | N1=CC=CC=C1 | C5H5N
reactant | pentafluorophenyl trifluoroacetate | 43.4 mmol, 4.5 mL | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | hydrazine monohydrate | 58 mmol, 2.8 mL | O.NN
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(2-Fluoro-4-iodo-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid hydrazide | FC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1)=O)C)C(=O)NN | C13H12FIN4O2
